US05614470
(d) α-Methoxyimino-2-chlorophenylacetic acid
10 ml of Jones reagent (chromic anhydride in dilute sulfuric acid) were added to a solution in acetone of 0.40 g of 2'-chloro-2-hydroxyacetophenone O-methyloxime (the less polar isomer prepared above). The resulting mixture was stirred at room temperature for an hour and then 10 ml of isopropanol were added to it with ice-cooling. The reaction mixture was poured into 100 ml of water and extracted three times with 10 ml portions of ethyl acetate. The combined extracts were washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off to give 320 mg (75%) of the title compound as a crude product.

reactant | Jones reagent | 10 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2'-chloro-2-hydroxyacetophenone O-methyloxime | 0.40 g | CON=C(CO)C1=C(C=CC=C1)Cl | C9H10ClNO2
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
reactant | water | 100 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | α-Methoxyimino-2-chlorophenylacetic acid | 320 mg, 75% | CON=C(C(=O)O)C1=C(C=CC=C1)Cl | C9H8ClNO3
